US07087626B2
4-[4-(2-Pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-piperidine-1-carboxylic acid tert-butyl ester
To a suspension of 4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-ol (0.27 g, 0.84 mmol) in N,N-dimethylformamide (15 mL) is added 4-bromo-piperidine-1-carboxylic acid tert-butyl ester (0.29 mL, 2.28 mmol) and cesium carbonate (1.5 g, 4.57 mmol. The mixture is heated at 80° C. for 48 h and concentrated in vacuo. The residue is taken up in dichloromethane, washed with water and brine, dried over sodium sulfate, and concentrated in vacuo. Purification by flash chromatography (SiO2, 7% methanol in dichloromethane) yields the title compound, 262 mg (61%,) as a yellow oil.

reactant | 4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-ol | 0.84 mmol, 0.27 g | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC(=CC=C21)O | C20H16N4O
reactant | 4-bromo-piperidine-1-carboxylic acid tert-butyl ester | 2.28 mmol, 0.29 mL | C(C)(C)(C)OC(=O)N1CCC(CC1)Br | C10H18BrNO2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 4-[4-(2-Pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-yloxy]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC=CC=C1)CCC2 | C30H33N5O3
